US04578381
5 Grams of 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride was dissolved in 150 ml of water. To this solution was added 1 g of 10%-palladium carbon, then hydrogen gas was adsorbed thereto at 70° C. under a normal pressure. The catalyst was removed from the reaction mixture by filtration, then the filtrate was concentrated under a reduced pressure. The residue thus obtained was crystallized by adding acetone, then recrystallized from ethanol-ether to obtain 3.6 g of 2-amino-3-(3,4-dihydroquinolin-2-on-4-yl)propionic acid hydrochloride in the form of white powdery product.

reactant | 2-amino-3-(2-quinolon-4-yl)propionic acid hydrochloride | Cl.NC(C(=O)O)CC1=CC(NC2=CC=CC=C12)=O
reactant | hydrogen | [H][H] | H2
solvent | water | 150 ml | O | H2O
catalyst | palladium carbon | [C].[Pd]
product | 2-amino-3-(3,4-dihydroquinolin-2-on-4-yl)propionic acid hydrochloride | 3.6 g | Cl.NC(C(=O)O)CC1CC(NC2=CC=CC=C12)=O | InChI=1S/C12H14N2O3.ClH/c13-9(12(16)17)5-7-6-11(15)14-10-4-2-1-3-8(7)10;/h1-4,7,9H,5-6,13H2,(H,14,15)(H,16,17);1H
